datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1cc(S(=O)(=O)N(CCO)CCO)cc(C)c1[O-:10].NC(CC[NH3+])=[N+:21](O)[H:20]>>Cc1cc(S(=O)(=O)N(CCO)CCO)cc(C)c1[O:10][H:20].NC(CC[NH3+])=[N:21]O 10=20;20,21=21",
"COC(=O)c1ccc([N+:21](C)(C)[H:20])cc1.O=C(C1CCCC1)[O-:10]>>COC(=O)c1ccc([N:21](C)C)cc1.O=C(C1CCCC1)[O:10][H:20] 10=20;20,21=21",
"NC(=O)CN(CC(=O)O)CC(=O)[O-:10].O=C(C1COCCO1)[O:21][H:20]>>NC(=O)CN(CC(=O)O)CC(=O)[O:10][H:20].O=C(C1COCCO1)[O-:21] 10=20;20,21=21",
"CC(C)(C)c1cc(/C=C/C(=O)[O-])cc(C(C)(C)C)c1[O-:10].Fc1cccc2[nH]c[n+:21]([H:20])c12>>CC(C)(C)c1cc(/C=C/C(=O)[O-])cc(C(C)(C)C)c1[O:10][H:20].Fc1cccc2[nH]c[n:21]c12 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CC(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C=C(C)C(=O)OCC[NH+:10](CC(C)C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CN(CC[NH+](C)C)CC[N+:21](C)(C)[H:20].COc1ccccc1/C=C/C=N/[O-:10]>>CN(CC[NH+](C)C)CC[N:21](C)C.COc1ccccc1/C=C/C=N/[O:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CCCC#N)[H:20].Nc1ccc([N+](=O)[O-])c(B(O)[O-:10])c1>>CC[N:21](CC)CCCC#N.Nc1ccc([N+](=O)[O-])c(B(O)[O:10][H:20])c1 10=20;20,21=21",
"CO[C@H]1CC=C2CC[N+:21]3([H:20])CC[C@H](CO)C(=CCO)[C@]23C1.O=C([O-])CNC(=O)C[N-:10]S(=O)(=O)c1ccccc1>>CO[C@H]1CC=C2CC[N:21]3CC[C@H](CO)C(=CCO)[C@]23C1.O=C([O-])CNC(=O)C[N:10](S(=O)(=O)c1ccccc1)[H:20] 10=20;20,21=21",
"Cc1c[n:10]c(C)cc1N.Cc1ccc([Se]CC(=O)[O:21][H:20])cc1>>Cc1c[n+:10]([H:20])c(C)cc1N.Cc1ccc([Se]CC(=O)[O-:21])cc1 10=20;20,21=21",
"CC(=NO)/C(C)=N/[O:21][H:20].CCCCCCCCCC(=O)[O-:10]>>CC(=NO)/C(C)=N/[O-:21].CCCCCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(=O)OCC1CC2CC[N+:21]1([H:20])CC2.CCCC[NH:10]C>>CC(=O)OCC1CC2CC[N:21]1CC2.CCCC[NH+:10](C)[H:20] 10=20;20,21=21",
"CC(O)[O:21][H:20].CCNC1=C/C(=[N:10]/CC)CC(C)(C)C1>>CC(O)[O-:21].CCNC1=C/C(=[N+:10](/CC)[H:20])CC(C)(C)C1 10=20;20,21=21",
"C=C(C)C(=O)OCC[N:10](CC)CC.Cc1cc(N)ccc1S(=O)(=O)[N:21](c1nccs1)[H:20]>>C=C(C)C(=O)OCC[N+:10](CC)(CC)[H:20].Cc1cc(N)ccc1S(=O)(=O)[N-:21]c1nccs1 10=20;20,21=21",
"C[NH:10]CC[S-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CC[S-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccc2c(ccc(C)[n:10]2)c1.Cc1n[nH]c2c(N)nc[n+:21]([H:20])c12>>Cc1ccc2c(ccc(C)[n+:10]2[H:20])c1.Cc1n[nH]c2c(N)nc[n:21]c12 10=20;20,21=21",
"Cc1ccccc1[N+:21](=CN(C)C)[H:20].O=C(/C=C/CCl)[O-:10]>>Cc1ccccc1[N:21]=CN(C)C.O=C(/C=C/CCl)[O:10][H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(O)C[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(O)C[NH2+:10][H:20] 10=20;20,21=21",
"BrCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>BrCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C1CNCC[NH:10]CCN1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1CNCC[NH+:10]([H:20])CCN1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CN1C(=O)N(C)c2c1cccc2[NH2+:21][H:20].c1ccc2cc([O-:10])ccc2c1>>CN1C(=O)N(C)c2c1cccc2[NH2:21].c1ccc2cc([O:10][H:20])ccc2c1 10=20;20,21=21",
"CCC[NH:10]CC(=O)O.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCC[NH+:10](CC(=O)O)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1=CC(=Nc2ccc([O:21][H:20])cc2)C=C(C)C1=O.N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2:10]>>CC1=CC(=Nc2ccc([O-:21])cc2)C=C(C)C1=O.N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"O=S(=O)(c1ccccc1)[NH-:10].c1ccc(CC2CCC[NH+:21]2[H:20])cc1>>O=S(=O)(c1ccccc1)[NH:10][H:20].c1ccc(CC2CCC[NH:21]2)cc1 10=20;20,21=21",
"C=C[C@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](O)c1cc[n:10]c2ccccc12.Cc1cc(C(=O)[O:21][H:20])c(C)o1>>C=C[C@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](O)c1cc[n+:10]([H:20])c2ccccc12.Cc1cc(C(=O)[O-:21])c(C)o1 10=20;20,21=21",
"CCCNCC[NH:10]CCC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCNCC[NH+:10](CCC)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"O=C(CNC(=O)C[NH2:10])NCC(=O)N1CCCC1C(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(CNC(=O)C[NH2+:10][H:20])NCC(=O)N1CCCC1C(=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCC([NH3+])C(=O)[O-:10].Cc1cc(N)nc(C)[n+:21]1[H:20]>>CCCCC([NH3+])C(=O)[O:10][H:20].Cc1cc(N)nc(C)[n:21]1 10=20;20,21=21",
"CC(C)Cc1ccc(O)c(C[N:10](C)C)c1.C[NH+](C)c1ccc2c(c1)Sc1cc([N+:21](C)(C)[H:20])ccc1N2>>CC(C)Cc1ccc(O)c(C[N+:10](C)(C)[H:20])c1.C[NH+](C)c1ccc2c(c1)Sc1cc([N:21](C)C)ccc1N2 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.C[NH:10]CCCN>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.C[NH+:10](CCCN)[H:20] 10=20;20,21=21",
"Nc1cc2ccccc2c[n+:21]1[H:20].O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[N:10](CC(=O)[O-])CC(=O)[O-])c1[O-]>>Nc1cc2ccccc2c[n:21]1.O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[N+:10](CC(=O)[O-])(CC(=O)[O-])[H:20])c1[O-] 10=20;20,21=21",
"CCCC[NH:10]CC(=O)c1ccc(O)cc1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCC[NH+:10](CC(=O)c1ccc(O)cc1)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=O)c1ccc(C(=O)[O-:10])s1.CN1C(=S)[N:21]([H:20])c2cncnc21>>CC(=O)c1ccc(C(=O)[O:10][H:20])s1.CN1C(=S)[N-:21]c2cncnc21 10=20;20,21=21",
